US07169778B2
5. 5-Amino-4-(cyclopentylamino)-2-[[4-(4methylpiperazin-1-yl)phenyl]amino]pyrimidine
Hydrogenation of 4-(cyclopentylamino)-2-[[4-(4-methylpiperazin-1-yl)phenyl]amino]-5-nitropyrimidine (from Example 2(5) above) over Pd/C gave the title compound: mp (i-Pr2O/CH2Cl2) 212° C. (dec).

reactant | 4-(cyclopentylamino)-2-[[4-(4-methylpiperazin-1-yl)phenyl]amino]-5-nitropyrimidine | C1(CCCC1)NC1=NC(=NC=C1[N+](=O)[O-])NC1=CC=C(C=C1)N1CCN(CC1)C | C20H27N7O2
catalyst | Pd/C | [Pd] | Pd
product | 5-Amino-4-(cyclopentylamino)-2-[[4-(4methylpiperazin-1-yl)phenyl]amino]pyrimidine | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCN(CC1)C)NC1CCCC1 | C20H29N7
